US08372866B2
d) 2-(4-methoxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one
Prepared analogously to Example 5d) starting from 2-(4-methoxyphenyl)-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one. Yield: 95%; TLC (9/1 Chloroform/Methanol) Rf: 0.51; 1H-NMR (d6-DMSO): 10.31 (s broad, 1H), 8.40 (d, 1H), 8.02 (m, 3H), 7.70 (d, 1H), 7.32 (m, 5H), 7.11 (d, 2H), 5.08 (s, 2H), 3.86 (s, H), 2.11 (s, 3H).

reactant | 2-(4-methoxyphenyl)-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one | COC1=CC=C(C=C1)C=1OC2=C(C(C1O)=O)C=C(C=C2)NC(C)=O | C18H15NO5
solvent | Chloroform Methanol | C(Cl)(Cl)Cl.CO
product | 2-(4-methoxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one | Yield: 95% | COC1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=O | C25H21NO5
